US07700634B2
To a solution of ethyl (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-5-carboxylate (1.49 g, 4.76 mmol) in ethanol (50 ml) was added 4 N sodium hydroxide (5.94 ml, 23.8 mmol). The mixture was stirred at 70° C. for 40 min. Ethanol was removed in vacuo, and the residue was neutralised with 2 N hydrochloric acid, and partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane and the combined organic layers washed with brine, dried over sodium sulfate and concentrated. The residue was dissolved in quinoline (20 ml), then copper powder (453 mg, 7.13 mmol) was added. The mixture was stirred at 210° C. for 1 h. Ethyl acetate and water were added to the mixture at room temperature, and the mixture was filtered through a plug of Celite, and the filter cake washed with ethyl acetate. The filtrate was acidified with 5 N hydrochloric acid and partitioned. The aqueous layer was extracted with ethyl acetate and the combined organic layers washed with 1 N hydrochloric acid and brine, dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography eluting with 0-10% (v/v) ethyl acetate in heptane to afford (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine (984 mg, 4.08 mmol).

reactant | ethyl (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-5-carboxylate | 4.76 mmol, 1.49 g | C1(CCCCC1)[C@@H]1COC=2C=3N1C(=CC3C=CC2)C(=O)OCC | C19H23NO3
reactant | sodium hydroxide | 23.8 mmol, 4 N, 5.94 ml | [OH-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | copper | 7.13 mmol, 453 mg | [Cu] | Cu
product | (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine | 4.08 mmol, 984 mg | C1(CCCCC1)[C@@H]1COC=2C=3N1C=CC3C=CC2 | C16H19NO
